US07314888B1
In 5 ml of N,N-dimethylformamide is suspended 0.85 g of 60% sodium hydride, to which is dropwise added 4.2 ml of ethyl diethylphosphonoacetate at ambient temperature over a period of 10 minutes. After stirring the mixture thus obtained for 30 minutes, 1.00 g of 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoic acid is added and stirred at 110° C. for 5 hours. The reaction mixture is cooled to ambient temperature and added to a mixture of ethyl acetate and water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=4:1) to obtain 0.36 g of 3-{5-[1-(2,4-diisobutoxyphenyl)-3-ethoxy-3-oxo-1-propenyl]-2-isobutoxyphenyl}propanoic acid as a light yellow oily product.

reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 4.2 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoic acid | 1.00 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)O)OCC(C)C)C=CC(=C1)OCC(C)C | C28H38O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-{5-[1-(2,4-diisobutoxyphenyl)-3-ethoxy-3-oxo-1-propenyl]-2-isobutoxyphenyl}propanoic acid | 0.36 g | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(=CC(=O)OCC)C=1C=CC(=C(C1)CCC(=O)O)OCC(C)C | C32H44O7
